US04584295
4-Chloromethyl-6-hydroxy-2-isopropyl-pyrimidine is reacted with allylbromide analogously to the process described in Example 86 in order to produce 4-chloromethyl-2-isopropyl-6-(2-propenyloxy)-pyrimidine which is required as the starting material in Example 24. This product is obtained in the form of an oil, 1H-NMR (CDCl3): 1.30 (d, 2×CH3), 3.15 (m, CH), 4.55 (s, CH2), 4.93 (m, CH2), 5.37 (m, CH2), 6.12 (m, CH), 6.75 (s, CH).

reactant | 4-Chloromethyl-6-hydroxy-2-isopropyl-pyrimidine | ClCC1=NC(=NC(=C1)O)C(C)C | C8H11ClN2O
reactant | allylbromide | C(C=C)Br | C3H5Br
product | 4-chloromethyl-2-isopropyl-6-(2-propenyloxy)-pyrimidine | ClCC1=NC(=NC(=C1)OCC=C)C(C)C | C11H15ClN2O
